US04797415
2-methylene-4-oxo-4-(2-ethyl-3-benzofuranyl)butyric acid (Compound 21)
At room temperature, 8.0 g of anhydrous aluminum chloride and 3.59 g of itaconic acid anhydride were dissolved in distilled tetrachloroethane, 20 ml, with vigorous agitation. Then the solution was cooled on an ice-water bath and to this, 2-ethybenzofuran, 4.39 g, dissolved in 10 ml of tetrachloroethane were added dropwise. After three hours stirring in an ice-water bath followed by 12 hrs. stirring at room temperature, the reaction mixture was poured into ice-water, 80 g, containing 20 ml of HCl and extracted with ethyl acetate. The ethyl acetate layer was extracted with 50 ml of a 10% NaCO3 solution and then the aqueous layer was acidified with 10% HCl again and extracted with ethyl acetate. After washing with water, drying and removal of the solvent, the resulting viscous oily substance was extracted with ligroin (20 ml×3). Needle-like crystals were obtained after overnight standing at room temperature.

reactant | aluminum chloride | 8.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | itaconic acid anhydride | 3.59 g | C1(C(=C)CC(=O)O1)=O | C5H4O3
reactant | 2-ethybenzofuran | C(C)C=1OC2=C(C1)C=CC=C2 | C10H10O
reactant | HCl | 20 ml | Cl | ClH
solvent | tetrachloroethane | ClCC(Cl)(Cl)Cl | C2H2Cl4
solvent | tetrachloroethane | 10 ml | ClCC(Cl)(Cl)Cl | C2H2Cl4
product | 2-methylene-4-oxo-4-(2-ethyl-3-benzofuranyl)butyric acid | C=C(C(=O)O)CC(C1=C(OC2=C1C=CC=C2)CC)=O | C15H14O4
